US07465806B2
To a solution of 4-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrole-2-carboxylic acid benzyl ester (50 mg) in DMF (2 mL) was added Cs2CO3 (176 mg), followed by 2-bromo-N-(5-chloro-pyridin-2-yl)-acetamide (34 mg). The mixture was stirred for 20 h at RT whereupon it was filtered. The filtrates were directly subjected to preparative HPLC(CH3CN/H2O gradient+0.05% TFA). Pure 1-[(5-chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrole-2-carboxylic acid benzyl ester (28.5 mg) was obtained as its trifluoroacetate salt. MS (ESI+): m/e=538 [M+H]+, chloro pattern.

reactant | 4-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrole-2-carboxylic acid benzyl ester | 50 mg | C(C1=CC=CC=C1)OC(=O)C=1NC=C(C1)C(NC1CCN(CC1)C(C)C)=O | C21H27N3O3
reactant | Cs2CO3 | 176 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromo-N-(5-chloro-pyridin-2-yl)-acetamide | 34 mg | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[(5-chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrole-2-carboxylic acid benzyl ester | 28.5 mg | C(C1=CC=CC=C1)OC(=O)C=1N(C=C(C1)C(NC1CCN(CC1)C(C)C)=O)CC(NC1=NC=C(C=C1)Cl)=O | C28H32ClN5O4
